US07479559B2
3-(2-pyridin-4-yl-benzylidene)-pyrrolidin-2-one:
The title compound was prepared via reaction between 2-pyridin-4-yl-benzaldehyde and N-acetylpyrrolidinone using General Aldol Procedure 1. 13C NMR (100 MHz, CDCl3) d 172.6, 149.9, 148.5, 140.0, 133.7, 132.8, 130.3, 128.9, 128.7, 128.4, 124.8, 40.0, 26.4; MS (AP/Cl) 252.1 (M+H)+.

reactant | 2-pyridin-4-yl-benzaldehyde | N1=CC=C(C=C1)C1=C(C=O)C=CC=C1 | C12H9NO
reactant | N-acetylpyrrolidinone | C(C)(=O)N1C(CCC1)=O | C6H9NO2
product | 3-(2-pyridin-4-yl-benzylidene)-pyrrolidin-2-one | N1=CC=C(C=C1)C1=C(C=C2C(NCC2)=O)C=CC=C1 | C16H14N2O
